US06548496B2
To a suspension of 8.2 g of 60% sodium hydride in mineral oil in 271 mL of tetrahydrofuran at 0° C. with stirring under nitrogen was added dropwise 10 g of propargyl alcohol over 15 min. The mixture was stirred an additional 30 min. To the stirred mixture at 0° C was added 15.8 g of chloromethylmethyl ether. Stirring was continued at room temperature over night. The mixture was filtered and the solvent was removed from the filtrate. The residue was distilled (35-38° C., 4 mm) giving 8.5 g. of a liquid. The distillate was dissolved in 200 mL of ether. The solution was stirred under nitrogen and cooled to −78° C. as 34.1 mL of 2.5 molar n-butyl lithium in hexanes was added over 15 min. Stirring was continued for another 1.5 hr. Dry carbon dioxide was passed over the surface of the stirring reaction mixture as it warmed from −78° C. to room temperature. The mixture was stirred under a carbon dioxide atmosphere over night. The mixture was poured into a mixture of 14 mL of hydrochloric acid and 24 mL of water. The organic layer was separated and dried over magnesium sulfate. The solvent was removed and the residue was maintained at 100° C. at 4 mm for 1 hr giving 10.4 g of 4-methoxymethoxy-but-2-ynoic acid.

reactant | sodium hydride | 8.2 g | [H-].[Na+]
reactant | propargyl alcohol | 10 g | C(C#C)O | C3H4O
reactant | chloromethylmethyl ether | 15.8 g | ClCOC | C2H5ClO
reactant | n-butyl lithium | 2.5 molar, 34.1 mL | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrochloric acid | 14 mL | Cl | ClH
solvent | tetrahydrofuran | 271 mL | O1CCCC1 | C4H8O
solvent | ether | 200 mL | CCOCC | C4H10O
solvent | water | 24 mL | O | H2O
product | 4-methoxymethoxy-but-2-ynoic acid | 10.4 g | COCOCC#CC(=O)O | C6H8O4
